US04022794
Preparation of 7-[3-(3-Hydroxy-4-propoxybutyl)-1,1,4trioxo-2-thiazolidinyl]heptanoic Acid
This compound is prepared essentially by the same procedure as described in Example 3 except that the 7-[3-(3-hydroxyoctyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid is replaced by 7-[3-(3-hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid. Chromatographic purification of the resulting product on silica gel gives the title compound as a viscous, pale yellow oil.

reactant | 7-[3-(3-hydroxyoctyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)O)CCCCC | C18H33NO5S
reactant | 7-[3-(3-hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)O)COCCC | C17H31NO6S
product | 7-[3-(3-Hydroxy-4-propoxybutyl)-1,1,4trioxo-2-thiazolidinyl]heptanoic Acid | OC(CCN1C(S(CC1=O)(=O)=O)CCCCCCC(=O)O)COCCC | C17H31NO7S
